US06972340B2
N-acetyl-4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenylalanine
A mixture benzhydryl 2-{4-[2-(acetylamino)-3-(allyloxy)-3-oxopropyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoate (3.4 g, 4.8 mmol), Pd(Ph3P)4 (166 mg, 0.144 mmol) and morpholine (0.5 ml, 5.8 mmol) in dichloromethane (25 mL) was stirred under N2 atmosphere for 2 hours, partitioned between ethyl acetate and water (75 mL, 1:1). The organic phase was washed with 1N HCl (1×25 mL), brine (1×25 mL), dried (MgSO4), filtered and concentrated under reduced pressure to provide the titled compound (3.3 g). MS (ESI(+)) m/e 665 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 12.67 (s, 1H), 8.51-7.98(m, 2H), 7.73-6.86 (m, 16H), 4.53-4.33 (m, 1H), 3.12-2.76 (m, 2H), 2.58-2.42 (m, 2H), 1.82-1.77 (m, 3H), 1.22-0.78 (m, 3H), 1.06, 1.04, 1.00 (s, s, s, 9H).

reactant | benzhydryl 2-{4-[2-(acetylamino)-3-(allyloxy)-3-oxopropyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoate | 4.8 mmol, 3.4 g | C(C)(=O)NC(CC1=CC(=C(N(C2=C(C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2)C(C(=O)OC(C)(C)C)=O)C=C1)CC)C(=O)OCC=C | C42H44N2O8
reactant | morpholine | 5.8 mmol, 0.5 ml | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | Pd(Ph3P)4 | 0.144 mmol, 166 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-acetyl-4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenylalanine | 3.3 g | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)OC(C)(C)C)=O)CC)C(=O)O | C39H40N2O8
